US07576215B2
PHENYL[4-[3-(TETRAHYDRO-2H-PYRAN-2-YLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 2-Bromomethyl-tetrahydropyran following the procedure of Example 478: MS (ESI) m/z 492.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Bromomethyl-tetrahydropyran | BrCC1OCCCC1 | C6H11BrO
product | PHENYL[4-[3-(TETRAHYDRO-2H-PYRAN-2-YLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL]METHANONE | C1(=CC=CC=C1)C(=O)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OCC1OCCCC1)C(F)(F)F | C29H24F3NO3
